US05354782
Step c: 1,6,14,19-Tetra[(4-methylphenyl)sulfonyl]-1,6,14,19-tetraazanonadecane
Dissolve 1,19-bis(t-butyloxycarbonyl)-1,6,14,19-tetra[(4-methylphenyl)sulfonyl]-1,6,14,19-tetraazanonadecane (11.7 g, 10 mmol) in saturated methanolic hydrochloric acid (100 mL). Stir for several hours and evaporate the solvent in vacuo. Dissolve the residue in water and neutralize with saturated sodium hydrogen carbonate and extract with ethyl acetate. Dry (MgSO4) and evaporate the solvent in vacuo. Purify by silica gel chromatography to give the title compound.

reactant | 1,19-bis(t-butyloxycarbonyl)-1,6,14,19-tetra[(4-methylphenyl)sulfonyl]-1,6,14,19-tetraazanonadecane | 10 mmol, 11.7 g | C(C)(C)(C)OC(=O)N(CCCCN(CCCCCCCN(CCCCN(S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C | C53H76N4O12S4
solvent | hydrochloric acid | 100 mL | Cl | ClH
product | 1,6,14,19-Tetra[(4-methylphenyl)sulfonyl]-1,6,14,19-tetraazanonadecane | CC1=CC=C(C=C1)S(=O)(=O)NCCCCN(CCCCCCCN(CCCCNS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C | C43H60N4O8S4
